US08293735B2
(R)-7-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-oxazolo[3,4-a]pyrazin-3-one
Prepared according to the method used in the preparation of 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using (R)-hexahydro-oxazolo[3,4-a]pyrazin-3-one in place of 7-methyl-2,7-diaza-spiro[3.5]nonane. The title compound was obtained as a white solid (71 mg, 50%).

reactant | 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C)N1CCOCC1 | C19H26ClN5OS
reactant | (R)-hexahydro-oxazolo[3,4-a]pyrazin-3-one | C1OC(N2[C@@H]1CNCC2)=O | C6H10N2O2
product | (R)-7-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-oxazolo[3,4-a]pyrazin-3-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2C[C@H]1N(CC2)C(OC1)=O)N1CCOCC1 | C17H20ClN5O3S
